* ro-array-core-startup-extracted -- issue #17's post-layout re-run of
* sim/tb/ro-array-core-startup/ against layout/pex/ro_array_core.extracted.spice
* (see layout/pex/build.py). Byte-identical to that testbench's own fragment
* except this header and the `xdut` line (names `ro_array_core_extracted`,
* adds the trailing `vsubs` node tied to 0). No measurement expression
* changes. See sim/characterization-post-layout-extracted.md for scope/limits.
*
* ro-array-core-startup -- how long the shipped entropy-source array takes to
* reach its steady oscillation period and its steady swing after `en` actually
* asserts, i.e. the "oscillator start from power-down and idle states" half of
* issue #14's time-to-first-valid deliverable.
*
* DUT: design/ro_array_core.spice, exported from design/xschem/ro_array_core.sch
* by design/netlist.py -- unmodified, the same DUT sim/tb/ro-array-core-power/
* and sim/tb/ro-array-core-pvt-q/ use.
*
* Why this deck exists, and what it changes relative to the two decks above.
* sim/tb/ro-array-core-power/'s own header states plainly: "Start-up time
* itself is worth measuring; it is not what THIS testbench measures." Both
* running-state decks hold `en` HIGH from t = 0 and kick each ring off its
* unstable symmetric DC equilibrium with a `.ic` on the NAND output, because a
* noiseless solver started at `en = 1` can otherwise converge to that
* equilibrium and never oscillate. That kick buys them measurement window at
* the cost of the one quantity this deck is about.
*
* THIS DECK USES NO `.ic`, DELIBERATELY, AND DOES NOT NEED ONE. With `en` low
* the ring is not at an unstable equilibrium at all: `ro_nand2`'s output is
* forced HIGH independently of its ring input, the loop gain around the ring is
* zero, and the eleven stages have exactly one stable DC solution
* (n1 = 1, n2 = 0, ... n10 = 0, ro = 1). ngspice's operating-point solve at
* t = 0 finds that state, which is precisely design/README.md's "off, clamped"
* idle state, and the rising `en` edge -- not an initial condition invented by
* the testbench -- is what starts the oscillation. Adding the running decks'
* `.ic` here would be actively wrong: it forces `n1 = 0` against an `en = 0`
* state that wants `n1 = 1`, so the ring would still be relaxing out of an
* inconsistent condition at the moment `en` asserts, and the measured start-up
* would be contaminated by the testbench's own artefact.
*
* `en` asserts at t = 5 ns rather than t = 0 so there is a clean, visibly
* settled interval of "actually off" ahead of the edge; every reported time is
* referenced to that edge (`en_assert_s`) and not to t = 0.
*
* What is measured, per PVT point:
*   - the first ten successive rising-edge crossings of a mid-supply reference
*     on EACH ring's own output node, probed hierarchically (no per-ring signal
*     is brought out of the core -- DR-0001/DR-0007: observability in the
*     testbench must not become an exposed tap in the design). Nine successive
*     period estimates per ring; sim/tools/time_to_first_valid.py finds the
*     first that agrees with the last to a stated tolerance and reports the
*     elapsed time from `en` to that edge as this run's oscillator start-up
*     time. The tolerance therefore lives in a tool a reader can re-run with a
*     different value, not baked irreversibly into the record.
*   - the first four rising crossings of the XOR-combined node `xo`, which is
*     what the sampler actually sees. A ring can be running before `xo` is a
*     usable digitiser input, and the two are not the same instant.
*   - ring and `xo` swing over an EARLY window and a LATE window. A converged
*     period does not by itself prove a converged amplitude, and a starved ring
*     that reaches its final frequency while still climbing to the rails would
*     hand the sampler an analog level. Measuring both closes that gap here
*     instead of leaving it as a caveat.
*
* Corner coverage is the SAME 27-point grid sim/tb/ro-array-core-pvt-q/ uses
* ({tt,ff,ss} x {-40,27,125} C x {2.97,3.30,3.63} V), so a start-up time and
* the steady period it converges to can be compared at the identical PVT point
* without interpolating between two different grids. `fs`/`sf` remain
* uncovered, per DR-0006.
*
* bvth is a measurement-only probe: a mid-supply reference so
* `meas ... when v(node)=v(vth)` finds crossings at any supply without a
* hard-coded trip voltage. It is the same construction
* sim/tb/ro-array-core-power/ uses.
*
* Pin-count fix (#78), pre-existing and unrelated to #78's own change: the
* `xdut` line below originally supplied 7 nodes, matching ro_array_core's
* port list BEFORE #65 added the ro1/ro2 observation pins. #65 updated
* sim/tb/ro-array-core-power/ and sim/tb/ro-array-core-pvt-q/'s own `xdut`
* lines to the resulting 9-node port list but missed this deck, which was
* never re-run in the interim (its own last change, #72, predates #65), so
* the gap went unnoticed until #78 re-ran this family and ngspice refused
* the mismatched subcircuit call ("Too few parameters for subcircuit type
* ro_array_core"). The same 7-node call fails identically against the
* unbuffered, pre-#78 ro_array_core.spice on origin/main today. Fixed by
* naming the two missing nodes, exactly as #65 did for the two decks above.
*
* Which node this deck measures, across both changes (#65 and #78). This
* deck has always measured EACH RING'S OWN OUTPUT NODE -- the last stage's
* output, before anything the array does with it -- and it still does. That
* node has been addressable under three different names over three commits,
* while remaining the same physical node:
*   - pre-#65: `xdut.ro1`, an internal node of ro_array_core.
*   - #65..#78: still the ring's own node, but promoted to a PORT (ro1), so
*     ngspice reports it under the flat top-level name and `v(xdut.ro1)`
*     stops resolving ("no such vector"). A subcircuit port is not
*     addressable as an internal node; that is what broke this deck's
*     measure lines the moment the pin-count fix let it run at all.
*   - #78 onward: the ring's own node is `rn1`/`rn2`, internal again --
*     ro_array_core's ro1/ro2 ports are now driven from the per-ring output
*     BUFFERS (xb1/xb2, DR-0018), not from the rings directly. tb.json's
*     measure lines therefore address `v(xdut.rn1)`/`v(xdut.rn2)`, which is
*     the SAME physical node the pre-#65 records measured under
*     `v(xdut.ro1)`, so this family's start-up times stay comparable across
*     the buffer's adoption instead of silently changing what they mean.
* The buffered ro1/ro2 ports are still connected here (the port list needs
* nine nodes) and simply unmeasured: this deck's start-up question is about
* the ring, and the node the SAMPLER sees is the combined node xo, which is
* measured and IS driven through the buffers.

vsup vsup 0 dc vdd_val
ven en 0 dc 0 pulse(0 vdd_val 5n 1p 1p 10u 20u)

xdut en en vsup vsup vsup 0 xo ro1 ro2 0 ro_array_core_extracted

bvth vth 0 v = 0.5*vdd_val
